US05002966
Methyl 5-[3-[(5-bromopentyl)oxy]-1-propynyl]-2-furancarboxylate
Methyl 5-bromo-2-furancarboxylate (1.49 g) was treated with 3-[(5-bromopentyl)oxy]-1-propyne (1.49 g) according to the method of Intermediate 9 to give the title compound as a yellow oil (0.97 g), t.l.c. (cyclohexane-diethyl ether 10:1) Rf 0.18.

reactant | Methyl 5-bromo-2-furancarboxylate | 1.49 g | BrC1=CC=C(O1)C(=O)OC | C6H5BrO3
reactant | 3-[(5-bromopentyl)oxy]-1-propyne | 1.49 g | BrCCCCCOCC#C | C8H13BrO
product | Methyl 5-[3-[(5-bromopentyl)oxy]-1-propynyl]-2-furancarboxylate | 0.97 g | BrCCCCCOCC#CC1=CC=C(O1)C(=O)OC | C14H17BrO4
